US05593993
N-(2-[1-cyclohexenyl]ethyl)-N'-[(4-isopropyl)pyridinyl]thiourea
A solution of 2-(1-cyclohexenyl)ethyl isothiocyanate (0.36 g, 2.2 mmol) and 2-amino-4-isopropylpyridine (0.36 g, 2.2 mmol) in N,N-dimethylformamide (20 mL) was heated at 100° C. for 96 h. The reaction was cooled to room temperature, solvents removed under reduced pressure, taken up in ethyl acetate, washed with 1N aqueous HCl. The organic layer was concentrated and the residue purified by HPLC (elution with hexanes-EtOAc) to afford 169 mg (5.6%) of the titled product:

reactant | 2-(1-cyclohexenyl)ethyl isothiocyanate | 2.2 mmol, 0.36 g | C1(=CCCCC1)CCN=C=S | C9H13NS
reactant | 2-amino-4-isopropylpyridine | 2.2 mmol, 0.36 g | NC1=NC=CC(=C1)C(C)C | C8H12N2
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | N-(2-[1-cyclohexenyl]ethyl)-N'-[(4-isopropyl)pyridinyl]thiourea | 169 mg, 5.6% | C1(=CCCCC1)CCNC(=S)NC1=NC=CC(=C1)C(C)C | C17H25N3S
